US07435837B2
(±)-{[7-(2,6-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.076 g, 57%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2,6-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.175 g, 0.40 mmol) and methylamine (0.12 g, 4.0 mmol). mp 170-172° C.

reactant | (±)-{[7-(2,6-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.40 mmol, 0.175 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C25H26O5S
reactant | methylamine | 4.0 mmol, 0.12 g | CN | CH5N
product | (±)-{[7-(2,6-dimethylphenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | CC1=C(C(=CC=C1)C)C1=CC(=CC=2CC(OC21)CNC)OC | C19H23NO2
